US07645789B2
To a solution of 2-(5-nitro-1H-indol-2-yl)propan-1-ol (0.13 g, 0.60 mmol) in ethanol (5 mL) was added tin chloride dihydrate (0.67 g, 3.0 mmol). The mixture was heated in the microwave at 120° C. for 1 h. The mixture was diluted with ethyl acetate before water and saturated aqueous NaHCO3 were added. The reaction mixture was filtered through a plug of celite using ethyl acetate. The organic layer was separated from the aqueous layer, dried over Na2SO4, filtered and evaporated under reduced pressure to give 2-(5-amino-1H-indol-2-yl)propan-1-ol (0.093 g, 82%).

reactant | 2-(5-nitro-1H-indol-2-yl)propan-1-ol | 0.60 mmol, 0.13 g | [N+](=O)([O-])C=1C=C2C=C(NC2=CC1)C(CO)C | C11H12N2O3
reactant | tin chloride dihydrate | 3.0 mmol, 0.67 g | O.O.[Sn](Cl)(Cl)(Cl)Cl
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 2-(5-amino-1H-indol-2-yl)propan-1-ol | 0.093 g, 82% | NC=1C=C2C=C(NC2=CC1)C(CO)C | C11H14N2O
